US04562206
38.2 g of ethyl 2-(3'-cyanophenylmethyl)-3-oxobutyrate was heated for 2 hours under reflux in 500 ml of concentrated hydrochloric acid. To the reaction solution was added 500 ml of water, followed by extraction three times with 500 ml portions of ethyl acetate. The organic phase was washed with water and dried with anhydrous sodium sulfate, after which the solvent was distilled off. The resultant 3-(3'-oxobutyl)benzoic acid was admixed with 500 ml of benzene and 17 ml of thionyl chloride and heated for 2 hours under reflux. The reaction solution was dropped into ice-cooled concentrated ammonia water and the resultant amide extracted three times with 500 ml portions of ethyl acetate. The organic phase was washed with a saturated saline solution and dried with anhydrous sodium sulfate. The solvent was distilled off and the residue recrystallized from ethyl acetate-n-hexane to obtained 23.1 g of 3-(3'-oxobutyl)benzamide, melting point 122°-125° C.

reactant | ethyl 2-(3'-cyanophenylmethyl)-3-oxobutyrate | 38.2 g | C(#N)C=1C=C(C=CC1)CC(C(=O)OCC)C(C)=O | C14H15NO3
reactant | water | 500 ml | O | H2O
solvent | hydrochloric acid | 500 ml | Cl | ClH
product | 3-(3'-oxobutyl)benzamide | 23.1 g | O=C(CCC=1C=C(C(=O)N)C=CC1)C | C11H13NO2
